US07569571B2
D. N-Cyclopropyl-4-methyl-3-(4-phenyl-pyrazolo[3,4-d]pyrimidin-1-yl)-benzamide
The mixture of 3-(5-Amino-4-benzoyl-pyrazol-1-yl)-N-cyclopropyl-4-methyl-benzamide (72 mg, 0.20 mmol), formamide (1.0 mL, excess), and acetic acid (0.2 mL) was heated in the microwave at 160° C. for 20 min. After cooling, the mixture was diluted with CH2Cl2 and water, and the CH2Cl2 layer was separated, dried over Na2SO4, filtered and concentrated. The crude product was purified by preparatory HPLC to provide the title compound (46 mg, 62%) as a white solid. HPLC tR=2.3 min; MS m/z 370.3 [M+H]+.

reactant | 3-(5-Amino-4-benzoyl-pyrazol-1-yl)-N-cyclopropyl-4-methyl-benzamide | 0.20 mmol, 72 mg | NC1=C(C=NN1C=1C=C(C(=O)NC2CC2)C=CC1C)C(C1=CC=CC=C1)=O | C21H20N4O2
reactant | formamide | 1.0 mL | C(=O)N | CH3NO
reactant | acetic acid | 0.2 mL | C(C)(=O)O | C2H4O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-Cyclopropyl-4-methyl-3-(4-phenyl-pyrazolo[3,4-d]pyrimidin-1-yl)-benzamide | 46 mg, 62% | C1(CC1)NC(C1=CC(=C(C=C1)C)N1N=CC=2C1=NC=NC2C2=CC=CC=C2)=O | C22H19N5O
